US08124606B2
Compound 77: (S)-N-methyl-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide
(S)-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid (75 mg, 0.178 mmol) was taken up in DMF (0.9 mL). To the mixture was added N-ethyl-N-isopropylpropan-2-amine (93 μl, 0.53 mmol), O-(7-Azabenzotriazole-1-yl)-N, N,N′N′-tetramethyluronium hexafluorophosphate (101 mg, 0.266 mmol), and methanamine hydrochloride (13.2 mg, 0.195 mmol). The reaction was stirred at room temperature overnight. The reaction was purified via HPLC (10-80 MeCN/H2O, TFA buffered). The fractions were collected and lyophilized to yield 23.8 mg (30%) of the product as a white solid. 1H NMR (DMSO-d6) δ (ppm): 10.48 (s, 1H), 8.56 (d, J=2.3 Hz, 1H), 8.20 (d, J=4.5 Hz, 1H), 7.92 (dd, J=9.0, 2.1 Hz, 1H), 7.65 (s, 1H), 6.98 (d, J=1.5 Hz, 1H), 6.82 (d, J=8.8 Hz, 1H), 4.50 (d, J=12.9 Hz, 1H), 3.77-3.94 (m, 1H), 3.56 (d, J=2.3 Hz, 4H), 3.34 (s, 2H), 2.74 (d, J=4.5 Hz, 3H), 2.53-2.69 (m, 1H), 2.41 (br. s., 4H), 1.99-2.08 (m, 1H), 1.84 (br. s., 1H), 1.59-1.69 (m, 1H), 1.31-1.57 (m, 3H). [M+H] calc'd for C25H33N7O2, 436. found, 436.

reactant | (S)-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid | 0.178 mmol, 75 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C(=O)O)C=C3)CCCC2 | C22H26N6O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.53 mmol, 93 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methanamine hydrochloride | 0.195 mmol, 13.2 mg | Cl.CN
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
product | (S)-N-methyl-6-(4-((6-oxo-6,6a,7,8,9,10-hexahydro-5H-dipyrido[1,2-a:3′,2′-e]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide | 23.8 mg, 30% | CNC(C1=CN=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCCC3)=O)=O | C23H29N7O2
